US07141351B2
In a nitrogen atmosphere, 148 g of caproyl chloride was added dropwise to a mixture of 112 g of 2-(1H-imidazol-1-yl)ethanol, synthesized in Synthesis Example 1, 121 g of triethylamine and 1,000 g of methylene chloride at 0° C. Then the reaction mixture was heated at 20° C. and stirred for 5 hours. The reaction mixture was subjected to conventional aqueous work-up and then purified by vacuum distillation, obtaining 189 g of 2-(1H-imidazol-1-yl)ethyl caproate (boiling point 127° C./20 Pa, yield 90%).

reactant | caproyl chloride | 148 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | 2-(1H-imidazol-1-yl)ethanol | 112 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | triethylamine | 121 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1,000 g | C(Cl)Cl | CH2Cl2
product | 2-(1H-imidazol-1-yl)ethyl caproate | 189 g, yield 90% | C(CCCCC)(=O)OCCN1C=NC=C1 | C11H18N2O2
